US08003669B2
1-Naphthylacetic acid (100 g, 530 mmol) was dissolved in dichloromethane (15 ml). Thionyl chloride (158 g, 1.32 mol) was added under ice-cooling and the mixture was heated under reflux for 1 hr. The solvent was evaporated and 1,2-dichloroethane (500 ml) was added to the obtained residue for dissolution. Aluminum chloride (150 g, 1.12 mol) was added under ice-cooling, and the mixture was stirred at room temperature for 1 hr. The reaction mixture was poured into ice water, and the mixture was extracted with dichloromethane. The extract was washed with water and saturated brine, dried over magnesium sulfate and concentrated to give acenaphthen-1-one (80 g) as yellow crystals.

reactant | 1-Naphthylacetic acid | 530 mmol, 100 g | C1(=CC=CC2=CC=CC=C12)CC(=O)O | C12H10O2
reactant | Thionyl chloride | 1.32 mol, 158 g | S(=O)(Cl)Cl | Cl2OS
reactant | Aluminum chloride | 1.12 mol, 150 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | acenaphthen-1-one | 80 g | C1(CC2=CC=CC3=CC=CC1=C23)=O | C12H8O
